US06747024B1
12.1) 4-(4-anilinoanilino)-4-oxobutanoic Acid
The experimental protocol used is the same as that described in J. Amer. Chem. Soc. (1951) 73, 4007, starting from N1-phenyl-1,4-benzenediamine and succinic anhydride in order to produce a pale grey-blue powder. Melting point: 175-176° C.

reactant | N1-phenyl-1,4-benzenediamine | C1(=CC=CC=C1)NC1=CC=C(C=C1)N | C12H12N2
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
product | 4-(4-anilinoanilino)-4-oxobutanoic Acid | N(C1=CC=CC=C1)C1=CC=C(NC(CCC(=O)O)=O)C=C1 | C16H16N2O3
